US04105668
To a stirred slurry of 86.4 g. (0.4 mole) of 6-aminopenicillanic acid in 600 ml. of anhydrous chloroform is added 111.2 ml. (0.8 mole) of triethylamine, and the mixture is stirred at ambient temperature until a clear solution is obtained (ca. 15 minutes). To this solution is then added, portionwise over about 25 minutes, 134.9 g. (0.44 mole) of 90% pure triphenylmethyl chloride, at ambient temperature. Stirring is continued for a further 64 hours, and then 5.6 ml. of triethylamine is added. The solution is cooled to 0°-5° C., and then an ice-cold solution of 38 ml. (0.4 mole) of ethyl chloroformate in 80 ml. of chloroform is added dropwise during 30 minutes with the reaction temperature being maintained between 4 and 9° C. After a further 15 minutes of stirring, 52.4 ml. (0.4 mole) of 4-methoxybenzylamine is injected into the reaction medium, below the surface of the solvent, at 4° to 9° C., and over a period of 30 minutes. Stirring is continued for a further 30 minutes at 3° to 6° C., for 20 minutes while the reaction medium warms to 20° C. The reaction mixture is then washed with water, followed by brine. Finally, it is dried using magnesium sulfate to give a chloroform solution of 6-(triphenylmethylamino)-2,2-dimethyl-3-(N-[4-methoxybenzyl]carbamoyl)penam.

reactant | 6-aminopenicillanic acid | 0.4 mole | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
reactant | triphenylmethyl chloride | 0.44 mole | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | ethyl chloroformate | 0.4 mole | ClC(=O)OCC | C3H5ClO2
reactant | 4-methoxybenzylamine | 0.4 mole | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.8 mole | C(C)N(CC)CC | C6H15N
product | 6-(triphenylmethylamino)-2,2-dimethyl-3-(N-[4-methoxybenzyl]carbamoyl)penam | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1[C@@H]2N(C(C(S2)(C)C)C(NCC2=CC=C(C=C2)OC)=O)C1=O | C35H35N3O3S
